US06248765B1
5.426 g (18.7 mmol) of 1-(N,N-dimethylsulphamoyl)-2-tert-butyldimethylsilylimidazole are dissolved in 100 ml of freshly distilled THF under nitrogen and cooled to −78° C., and a solution of n-butyl-lithium in hexane (2.5M; 15 ml; 37.5 mmol) is added dropwise over a period of 10 min. The mixture is stirred for 30 min at −78° C. The solution is warmed to 0° C. with rapid stirring, and a solution of 3.0 ml (2.49 g; 42.9 mmol) of propylene oxide in 20 ml of freshly distilled THF is added dropwise over a period of 15 min. The mixture is stirred for 18 hours with heating at 20° C., and the mixture is then hydrolysed by adding 100 ml of saturated NH4Cl solution. The THF is removed under reduced pressure and the mixture obtained is extracted three times with 100 ml of dichloromethane. The organic layers are combined, dried (MgSO4) and evaporated under reduced pressure to yield an oil, which is subjected to column chromatography with diethyl ether as eluent to yield 1-(N,N-dimethylsulphamoyl)-2-tert-butyldimethylsilyl-5-(2-hydroxypropyl)imidazole in the form of a viscous yellow oil.

reactant | 1-(N,N-dimethylsulphamoyl)-2-tert-butyldimethylsilylimidazole | 18.7 mmol, 5.426 g | CN(S(=O)(=O)N1C(=NC=C1)[Si](C)(C)C(C)(C)C)C | C11H23N3O2SSi
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | hexane | 37.5 mmol, 2.5M, 15 ml | CCCCCC | C6H14
reactant | propylene oxide | 42.9 mmol, 3.0 ml, 2.49 g | C1C(C)O1 | C3H6O
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N,N-dimethylsulphamoyl)-2-tert-butyldimethylsilyl-5-(2-hydroxypropyl)imidazole | CN(S(=O)(=O)N1C(=NC=C1CC(C)O)[Si](C)(C)C(C)(C)C)C | C14H29N3O3SSi
